US09126969B2
10 mL of piperidinecarbonyl chloride and 13.55 mL of N,N-diisopropylethylamine are added to a solution of 10 g of 3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine in 200 mL of THF. The reaction mixture is refluxed for 3 hours and then left stirring at ambient temperature for 48 hours. After concentration of the medium vacuum in a rotary evaporator, the reaction crude is purified by flash chromatography on 1200 g of 40-63 μM silica, elution being carried out with a 90:10 mixture of dichloromethane/acetone. 10.4 g of piperidine-1-carboxylic acid [3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]amide are isolated. 1H NMR (300 MHz, (CD3)2S, δ in ppm): 1.50-1.79 (m: 10H); 1.91-2.04 (m: 2H); 3.00 (m: 4H); 3.50 (m: 4H); 3.66 (m: 1H); 3.77 (m: 4H); 3.96 (broad d J=11 Hz: 1H); 5.46 (dd, J=10 and 2 Hz: 1H); 7.10 (very broad s: 1H); 7.40 (very broad s: 1H); 8.13 (s: 1H); 9.96 (broad s: 1H); 13.00 (very broad s: 1H).

reactant | piperidinecarbonyl chloride | 10 mL | N1(CCCCC1)C(=O)Cl | C6H10ClNO
reactant | N,N-diisopropylethylamine | 13.55 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine | 10 g | FC1=CC2=C(NC(=N2)C2=NN(C=C2N)C2OCCCC2)C=C1N1CCOCC1 | C19H23FN6O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | piperidine-1-carboxylic acid [3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]amide | 10.4 g | FC1=CC2=C(NC(=N2)C2=NN(C=C2NC(=O)N2CCCCC2)C2OCCCC2)C=C1N1CCOCC1 | C25H32FN7O3
